US07612075B2
5-Benzyloxycarbonylamino-3-oxo-pentanoic acid ethyl ester (1.0 g, 3.4 mmol) is dissolved in glacial acetic acid (10 mL) and pyridinium bromide perbromide (1.1 g, 3.4 mmol) of is added. The reaction stirred 16 hrs and then poured into H2O (100 mL) and extracted with ethyl acetate (2×100 mL). The organic layers are combined and washed with H2O (2×100 mL) and with brine (2×100 mL). The organic layer is dried over MgSO4, filtered and reduced to an oil by rotary evaporation. The crude product is purified by flash chrom-atography on silica gel using 25% ethyl acetate/hexane as the eluent to provide 5-benzyloxycarbonylamino-4-bromo-3-oxo-pentanoic acid ethyl ester. 1H NMR (300 MHz, CDCl3) δ 7.34 (s, 5H), 5.27 (m, 1H), 5.09 (s, 2H), 4.67 (t, 1H), 4.17 (q, 2H), 3.72 (m, 4H), 1.27 (t, 3H); MS (ion spray) 372 (M+H)+.

reactant | 5-Benzyloxycarbonylamino-3-oxo-pentanoic acid ethyl ester | 3.4 mmol, 1.0 g | C(C)OC(CC(CCNC(=O)OCC1=CC=CC=C1)=O)=O | C15H19NO5
reactant | pyridinium bromide perbromide | 3.4 mmol, 1.1 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | H2O | 100 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-benzyloxycarbonylamino-4-bromo-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(C(CNC(=O)OCC1=CC=CC=C1)Br)=O)=O | C15H18BrNO5
